US06552069B1
Anhydrous tetrahydrofuran (200 ml) was added to 60% sodium hydride (2.78 g, 69.52 mmol) and the resulting mixture was cooled to 0° C. Diethyl malonate (12.18 ml, 80.22 mmol) was slowly added dropwise to this mixture, which was then stirred for 1 hour at room temperature. A solution of 1-iodo-3,3,4,4,5,5,6,6,6-nonafluorohexane (20.0 g, 53.48 mmol) in anhydrous tetrahydrofuran (50 ml) was then slowly added dropwise to the mixture, followed by stirring for 12 hours at room temperature. Water was added to the reaction mixture, which was then extracted twice with ethyl acetate. The combined organic layers were washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/50) to give diethyl 2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)malonate (19.4 g, Yield 89%).

reactant | sodium hydride | 69.52 mmol, 2.78 g | [H-].[Na+]
reactant | Diethyl malonate | 80.22 mmol, 12.18 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 1-iodo-3,3,4,4,5,5,6,6,6-nonafluorohexane | 53.48 mmol, 20.0 g | ICCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C6H4F9I
reactant | Water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | diethyl 2-(3,3,4,4,5,5,6,6,6-nonafluorohexyl)malonate | 19.4 g, Yield 89% | FC(CCC(C(=O)OCC)C(=O)OCC)(C(C(C(F)(F)F)(F)F)(F)F)F | C13H15F9O4
